US05328911
7-Methyl-2-n-propyl-3-[{2'- (1H-tetrazol-5-yl)biphenyl-4-yl}methyl]-3H-imidazo[4,5-b]pyridine
5.3 g of 3-[(2'-cyanobiphenyl-4-yl)methyl]-7-methyl-2-n-propyl-3H-imidazo[4,5-b]pyridine, 5.85 g of sodium azide and 6.19 g of triethylamine hydrochloride were heated in 120 ml of N-methylpyrrolidone as a reaction solvent at an internal temperature of ° C. for 8 hr under stirring. After cooling, a dilute aqueous sodium hydroxide solution and ethyl acetate were added thereto to cause phase separation, thus obtaining a watery phase. The watery phase was weakly acidified with acetic acid and extracted thrice with ethyl acetate, and the extract was washed four times with water. Methanol was added to the washed extract to dissolve the precipitated crystal in the organic phase, and the organic phase was dried over anhydrous magnesium sulfate. The dried organic phase was concentrated, and the residue was subjected to silica gel chromatography (chloroform:ethanol : acetic acid=97:3:0.2). A fraction of the intended title compound was concentrated and recrystallized from ethanol. The yield was 4.6 g. The melting point was 200° to 202° C.

reactant | 3-[(2'-cyanobiphenyl-4-yl)methyl]-7-methyl-2-n-propyl-3H-imidazo[4,5-b]pyridine | 5.3 g | C(#N)C1=C(C=CC=C1)C1=CC=C(C=C1)CN1C(=NC=2C1=NC=CC2C)CCC | C24H22N4
reactant | sodium azide | 5.85 g | [N-]=[N+]=[N-].[Na+]
reactant | triethylamine hydrochloride | 6.19 g | Cl.C(C)N(CC)CC
reactant | sodium hydroxide | [OH-].[Na+]
solvent | N-methylpyrrolidone | 120 ml | CN1C(CCC1)=O | C5H9NO
solvent | acetic acid | C(C)(=O)O | C2H4O2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 7-Methyl-2-n-propyl-3-[{2'- (1H-tetrazol-5-yl)biphenyl-4-yl}methyl]-3H-imidazo[4,5-b]pyridine | CC1=C2C(=NC=C1)N(C(=N2)CCC)CC2=CC=C(C=C2)C2=C(C=CC=C2)C2=NN=NN2 | C24H23N7
